US07067517B2
Methyl-phenyl-carbamic acid 3-(4-methoxy-phenyl)-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-3-(4-methoxyphenyl)pyrazole and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to flash chromatography (Quad flash 25, EtOAc-heptane) (93%, oil). HPLC-MS m/z=346.1 (M+Na), Rt: 4.21 min.

reactant | 1-hydroxy-3-(4-methoxyphenyl)pyrazole | ON1N=C(C=C1)C1=CC=C(C=C1)OC | C10H10N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
solvent | EtOAc heptane | CCOC(=O)C.CCCCCCC
product | Methyl-phenyl-carbamic acid 3-(4-methoxy-phenyl)-pyrazol-1-yl ester | COC1=CC=C(C=C1)C1=NN(C=C1)OC(N(C1=CC=CC=C1)C)=O | C18H17N3O3
